US06770642B2
Preparation of (S)-2-(1H-Indol-3-yl)-1-methylethylamine
A solution of (S)-2-amino-1-(1H-indol-3-yl)-propan-1-one (0.47 g, 2.5 mmol, 1.0 eq.) in acetonitrile and isopropanol is treated portionwise with NaBH4 (285 mg, 7.49 mmol, 3.0 equiv.), heated at reflux temperature for 24 h, stirred at room temperature under N2 for 36 h, quenched with methanol, concentrated and partitioned between water and EtOAc. The EtOAc phase is dried over MgSO4 and concentrated in vacuo to afford the title product as a brown oil, identified by HPLC and mass spectral analyses.

reactant | (S)-2-amino-1-(1H-indol-3-yl)-propan-1-one | 2.5 mmol, 0.47 g, 1.0 eq. | N[C@H](C(=O)C1=CNC2=CC=CC=C12)C | C11H12N2O
reactant | NaBH4 | 7.49 mmol, 285 mg, 3.0 equiv. | [BH4-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | isopropanol | C(C)(C)O | C3H8O
product | (S)-2-(1H-Indol-3-yl)-1-methylethylamine | N1C=C(C2=CC=CC=C12)C[C@H](C)N | C11H14N2
